US07989461B2
6-(3-Amino-6-methylbenzo[d]isothiazol-7-yl)-N-methylquinazolin-2-amine (0.100 g, 0.31 mmol), 3-(trifluoromethyl)benzenamine (0.060 g, 0.37 mmol), tris(dibenzylideneacetone)dipalladium (o) (0.0085 g, 0.0093 mmol), X-phos (0.0089 g, 0.019 mmol) and sodium t-butoxide (0.042 g, 0.44 mmol) were all placed in a clear microwave vial along with 4 ml of toluene. The vial was capped and heated in a Personal Chemistry SmithSynthesizer to 150° C. for 10 minutes. The reaction was diluted with ethyl acetate and the organic layer was washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate and purified by column chromatography on silica gel using a gradient of 40-80% EtOAc in hexanes to give N-methyl-6-(6-methyl-3-(3-(trifluoromethyl)phenylamino)benzo[d]isothiazol-7-yl)quinazolin-2-amine as yellow solid. MS (M+H)+ 466.

reactant | 6-(3-Amino-6-methylbenzo[d]isothiazol-7-yl)-N-methylquinazolin-2-amine | 0.31 mmol, 0.100 g | NC1=NSC2=C1C=CC(=C2C=2C=C1C=NC(=NC1=CC2)NC)C | C17H15N5S
reactant | 3-(trifluoromethyl)benzenamine | 0.37 mmol, 0.060 g | FC(C=1C=C(C=CC1)N)(F)F | C7H6F3N
reactant | X-phos | 0.019 mmol, 0.0089 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | sodium t-butoxide | 0.44 mmol, 0.042 g | CC(C)([O-])C.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0093 mmol, 0.0085 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | N-methyl-6-(6-methyl-3-(3-(trifluoromethyl)phenylamino)benzo[d]isothiazol-7-yl)quinazolin-2-amine | CNC1=NC2=CC=C(C=C2C=N1)C1=C(C=CC=2C(=NSC21)NC2=CC(=CC=C2)C(F)(F)F)C | C24H18F3N5S
